US08729102B2
C) N-{(1S)-2-[(6-{6-[(2,2-difluorocyclopropyl)methoxy]-1,3-benzoxazol-2-yl}-5-fluoropyridin-3-yl)oxy]-1-methylethyl}acetamide
A mixture of tert-butyl {(1S)-2-[(6-{6-[(2,2-difluorocyclopropyl)methoxy]-1,3-benzoxazol-2-yl}-5-fluoropyridin-3-yl)oxy]-1-methylethyl}carbamate (690 mg), 4 M hydrogen chloride/ethyl acetate (10 mL), and ethyl acetate (10 mL) was stirred at room temperature overnight. The mixture was concentrated under reduced pressure. The residue was mixed with pyridine (10 mL) and acetic anhydride (5 mL). The mixture was stirred at room temperature overnight. 1 M hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) and recrystallization (ethyl acetate) to give the title compound (496 mg) as white crystals.

reactant | tert-butyl {(1S)-2-[(6-{6-[(2,2-difluorocyclopropyl)methoxy]-1,3-benzoxazol-2-yl}-5-fluoropyridin-3-yl)oxy]-1-methylethyl}carbamate | 690 mg | FC1(C(C1)COC1=CC2=C(N=C(O2)C2=C(C=C(C=N2)OC[C@H](C)NC(OC(C)(C)C)=O)F)C=C1)F | C24H26F3N3O5
reactant | hydrogen chloride ethyl acetate | 4 M, 10 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | N-{(1S)-2-[(6-{6-[(2,2-difluorocyclopropyl)methoxy]-1,3-benzoxazol-2-yl}-5-fluoropyridin-3-yl)oxy]-1-methylethyl}acetamide | 496 mg | FC1(C(C1)COC1=CC2=C(N=C(O2)C2=C(C=C(C=N2)OC[C@H](C)NC(C)=O)F)C=C1)F | C21H20F3N3O4
